US06515011B2
HCl gas was bubbled through a 0° C. solution of N-(tert-Butoxyacetyl)-D-phenylalanyl-N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-L-prolinamide (0.073 mmol, 45 mg) in 0.500 mL ethylacetate for 2 min. Let stir 1 h and concentrated in vaccuo to give D-Phenylalanyl-N-[2-(ammoniomethyl)-5-chlorobenzyl]-L-prolinamide bis(hydrochloride). Mass Spec ES (M+1)=415.1.

reactant | HCl | Cl | ClH
reactant | N-(tert-Butoxyacetyl)-D-phenylalanyl-N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-L-prolinamide | 0.073 mmol, 45 mg | C(C)(C)(C)OCC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1 | C33H45ClN4O6
solvent | ethylacetate | 0.500 mL | C(C)OC(C)=O | C4H8O2
product | D-Phenylalanyl-N-[2-(ammoniomethyl)-5-chlorobenzyl]-L-prolinamide bis(hydrochloride) | Cl.Cl.N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C[NH3+])CCC1 | InChI=1S/C22H27ClN4O2.2ClH/c23-18-9-8-16(13-24)17(12-18)14-26-21(28)20-7-4-10-27(20)22(29)19(25)11-15-5-2-1-3-6-15;;/h1-3,5-6,8-9,12,19-20H,4,7,10-11,13-14,24-25H2,(H,26,28);2*1H/p+1/t19-,20+;;/m1../s1
